US04496735
5 g of thionyl chloride was added dropwise to a mixture of 6 g of 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid, 80 ml of pyridine and 50 ml of chloroform under ice-cooling with stirring, followed by stirring for one hour to obtain a solution of 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid chloride. 8 g of cyclohexylamine was added to the solution, and the mixture was stirred for one hour and poured into water. The mixture was rendered basic with sodium carbonate, and the organic layer was separated by filtration, washed with water and dried over magnesium sulfate. The solvent was distilled off and the resulting oily substance was purified by silica gel chromatography (eluted with chloroform-diethyl ether, 1:2 by volume). The resulting crystals were converted into the hydrochloride in the same manner as described in Example 4 and recrystallized from a mixture of ethanol and diethyl ether to obtain 4.5 g (51% yield) of N-cyclohexyl-2-methyl-3-[4-(3-pyridyloxy)phenyl]propenamide hydrochloride having a melting point of 162°-166° C.

reactant | thionyl chloride | 5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid | 6 g | CC(C(=O)O)=CC1=CC=C(C=C1)OC=1C=NC=CC1 | C15H13NO3
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-3-[4-(3-pyridyloxy)phenyl]propenoic acid chloride | CC(C(=O)Cl)=CC1=CC=C(C=C1)OC=1C=NC=CC1 | C15H12ClNO2
